US07361660B2
a) 6-Chloro-1-ethyl-3-methylpyrimidine-2,4(1H,3H)-dione
The sub-title compound was prepared by the method of example 9, part a) using 6-chloro-3-methyl uracil and ethyl iodide.

reactant | 6-chloro-3-methyl uracil | ClC1=CC(N(C(N1)=O)C)=O | C5H5ClN2O2
reactant | ethyl iodide | C(C)I | C2H5I
product | 6-Chloro-1-ethyl-3-methylpyrimidine-2,4(1H,3H)-dione | ClC1=CC(N(C(N1CC)=O)C)=O | C7H9ClN2O2
